US05977134
Step 1: Preparation of N-(3-chlorobenzyl) 2-Boc-1,2,3,4-tetrahydroisoquinoline-3(S)-carboxamide
N-Boc-L-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid (Bachem) was coupled with 3-chlorobenzylamine using standard peptide coupling procedures to give the title compound.

reactant | N-Boc-L-1,2,3,4-tetrahydroisoquinoline-3-carboxylic acid | CC(C)(C)OC(=O)N1CC2=CC=CC=C2C[C@H]1C(=O)O | C15H19NO4
reactant | 3-chlorobenzylamine | ClC=1C=C(CN)C=CC1 | C7H8ClN
product | N-(3-chlorobenzyl) 2-Boc-1,2,3,4-tetrahydroisoquinoline-3(S)-carboxamide | ClC=1C=C(CNC(=O)[C@H]2N(CC3=CC=CC=C3C2)C(=O)OC(C)(C)C)C=CC1 | C22H25ClN2O3
